US08034949B2
To a solution of 5-bromo-1H-pyridin-2-one (2 g) and silver carbonate (4.3 g) in chloroform (40 mL) was added isopropyl iodide (11.5 mL) and the mixture was stirred at room temperature for 2 hours. The reaction mixture was filtered through silica gel (20 g) and the filtrate was concentrated in vacuo. The resultant crude product was purified by a column chromatography on silica gel (solvent; hexane/ethyl acetate=98:2→90:10) to give 5-bromo-2-isopropyloxypyridine (2.41 g, yield: 97%).

reactant | 5-bromo-1H-pyridin-2-one | 2 g | BrC=1C=CC(NC1)=O | C5H4BrNO
reactant | isopropyl iodide | 11.5 mL | C(C)(C)I | C3H7I
solvent | chloroform | 40 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | silver carbonate | 4.3 g | C([O-])([O-])=O.[Ag+2]
product | 5-bromo-2-isopropyloxypyridine | 2.41 g, yield: 97% | BrC=1C=CC(=NC1)OC(C)C | C8H10BrNO
